US04523013
(b) 4-(cyclohexylcarbonyl)-2-hydroxy-6-oxo-1-phenethyl piperazine
15.2 g (0.046 mol) of 4-(cyclohexylcarbonyl)-2,6-dioxo-1-phenethyl piperazine are dissolved in 600 ml of ethanol. In an inert atmosphere, at 0° C., there are added 8.7 g (0.0509 mol) of dihydrated cupric chloride and the mixture is left for 1 hour at 0° C. To the reaction medium, kept at 0° C., are added in portions 8.8 g (0.23 mol) of sodium borohydride and left for 45 minutes at 0° C. The excess of reducing agent is destroyed by adding acetone. The insoluble salts are filtered and the filtrate is evaporated to dryness. The residue obtained is treated with a mixture of water and dichloromethane. The organic phase is decanted, dried over dry sodium sulphate and evaporated to dryness. The residue which is obtained is purified by filtration on a silica bed (elutrient: ethyl acetate). Beige crystals, m.p.=134° C., yield: 73%.

reactant | 4-(cyclohexylcarbonyl)-2,6-dioxo-1-phenethyl piperazine | 0.046 mol, 15.2 g | C1(CCCCC1)C(=O)N1CC(N(C(C1)=O)CCC1=CC=CC=C1)=O | C19H24N2O3
reactant | sodium borohydride | 0.23 mol, 8.8 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 4-(cyclohexylcarbonyl)-2-hydroxy-6-oxo-1-phenethyl piperazine | yield: 73% | C1(CCCCC1)C(=O)N1CC(N(C(C1)=O)CCC1=CC=CC=C1)O | C19H26N2O3
